US04167567
In the manner given in Example 23, 4-[4-[[7-chloro-4-quinolinyl]amino]benzoyl]piperazine is reacted with o-bromophenyl isocyanate to give 1-[[(2-bromophenyl)amino]carbonyl]-4-[4-[[7-chloro-4-quinolinyl]amino]benzoyl]piperazine.

reactant | 4-[4-[[7-chloro-4-quinolinyl]amino]benzoyl]piperazine | ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCNCC2)C=C1 | C20H19ClN4O
reactant | o-bromophenyl isocyanate | BrC1=C(C=CC=C1)N=C=O | C7H4BrNO
product | 1-[[(2-bromophenyl)amino]carbonyl]-4-[4-[[7-chloro-4-quinolinyl]amino]benzoyl]piperazine | BrC1=C(C=CC=C1)NC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)Cl)=O | C27H23BrClN5O2
